Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Taxol / lisinopril / Neulasta
 
Attending: ___.
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
The patient is a ___ history of stage III ovarian cancer s/p 
TAH-BSO, small bowel resection, heated intraperitoneal 
chemotherapy in ___ (BRCA2
mutation, history of pancreatic cysts for which we have been 
following) and multiple small bowel obstructions previously.  
She recalls about 6 discrete episodes of SBO, often will allow 
similar episodes of pain to pass without presenting to hospital, 
and has been inpatient twice managed non-operatively.  Her last 
obstruction was in ___ and she was admitted to our service,
given IV hydration, made NPO, and no NG tube was placed.  A CT 
scan at that time showed a transition point in the deep pelvis 
distally.  She was discharged the following day after resolution 
of her symptoms.
    Today she says she awoke around 5 am with a "stomach ache 
like none other," similar to her prior episodes of obstruction.  
The pain was diffuse, waxing and waning / crampy.  After the 
onset of pain she had a small bowel movement - she cannot recall 
the last time she passed flatus.  The pain also seems to be 
worsened with certain positions.  She endorses some nausea, and 
she stopped
eating and began to focus on drinking liquids thinking that she 
would not tolerate food further at this time.  No fever, chills. 
 Review of systems otherwise noncontributory.

 
Past Medical History:
PAST MEDICAL HISTORY:  Negative.

PAST SURGICAL HISTORY:  Tonsillectomy in ___.

ALLERGIES TO MEDICATIONS:  None.

CURRENT MEDICATIONS:  None.

OB HISTORY:  Vaginal delivery x3.

GYN HISTORY:  Last Pap smear was yesterday, and the results are
pending.  Last mammogram in ___ and normal.

 
Social History:
___
Family History:
Significant for mother with melanoma, father with pancreatic 
cancer, a paternal aunt with a question of both breast and 
ovarian cancer, and a maternal aunt with cervical cancer.

 
Physical Exam:
Prior To Discharge:
VS: 98.2, 75, 134/82, 18, 95% RA
GEN: NAD
CV: RRR
PULM: CTAB
ABD: Soft, non tender, non distended. Old suprapubic scar well 
healed
EXTR: Warm, positive peripheral pulses
 
Pertinent Results:
RECENT LABS:

___ 06:35AM BLOOD WBC-6.0 RBC-3.87* Hgb-11.4 Hct-34.8 
MCV-90 MCH-29.5 MCHC-32.8 RDW-13.6 RDWSD-44.9 Plt ___
___ 06:35AM BLOOD Glucose-111* UreaN-10 Creat-0.7 Na-139 
K-4.1 Cl-101 HCO3-25 AnGap-13
___ 01:25PM BLOOD ALT-12 AST-21 AlkPhos-50 TotBili-0.9
___ 06:35AM BLOOD Calcium-8.9 Phos-2.5* Mg-2.2

___ CT ABD:
IMPRESSION:  
Small-bowel obstruction with transition point in the low right 
pelvis just 
distal to a small bowel anastomosis, with small volume ascites. 

___ KUB:
IMPRESSION:  
Resolved small-bowel obstruction.  Contrast seen through the 
colon to the 
rectosigmoid. 

 
Brief Hospital Course:
The patient with prior h/o SBO (___) was admitted to the 
General Surgical Service for evaluation of abdominal pain. 
Admission CT scan revealed SBO with transition point. NGT was 
placed and patient was made NPO with IV fluids. On HD, patient's 
pain improved, she started to have bowel movements. NGT was 
discontinued, KUB was obtained and demonstrated contrast 
advanced to colon. Patient's diet was advanced to clears and was 
well tolerated. Later on HD 2, diet was advanced to regular. On 
HD 3, patient remained pain free, tolerated regular diet, she 
was discharged home in stable condition. Patient was advised to 
return in ED if her symptoms will re-occur. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Headache  

 
Discharge Medications:
1.  Ondansetron 4 mg PO Q8H:PRN nausea   
2.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Headache  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small-bowel obstruction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were admitted to the surgery service at ___ with small 
bowel obstruction. You were managed conservatively with NGT and 
bowel rest. You started to pass ___ and your diet was advanced. 
You are now safe to return home to complete your recovery with 
the following instructions:
.
Please return to ED if you symptoms re-occurs.
.
Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
 

 
Followup Instructions:
___